US06498169B1
Synthesis of 1-[[2-(4-Chloro-3,5-dimethoxyphenyl)pyridin-4-yl]methyl]-4-[N-[[2-(4-chloro-3,5-dimethoxyphenyl)pyridin-4-yl]methyl]-N-phenylamino]piperidine Trihydrochloride
4-Anilino-1-[[2-(4-chloro-3,5-dimethoxyphenyl)pyridin-4-yl]methyl]piperidine (230 mg) and 2-(4-chloro-3,5-dimethoxyphenyl)-4-chloromethylpyridine (157 mg) were condensed in the same manner as described in Example 9. The title compound was obtained as yellow powder after converting a free base to a trihydrochloride.

reactant | 4-Anilino-1-[[2-(4-chloro-3,5-dimethoxyphenyl)pyridin-4-yl]methyl]piperidine | 230 mg | N(C1=CC=CC=C1)C1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)Cl)OC | C25H28ClN3O2
reactant | 2-(4-chloro-3,5-dimethoxyphenyl)-4-chloromethylpyridine | 157 mg | ClC1=C(C=C(C=C1OC)C1=NC=CC(=C1)CCl)OC | C14H13Cl2NO2
product | 1-[[2-(4-Chloro-3,5-dimethoxyphenyl)pyridin-4-yl]methyl]-4-[N-[[2-(4-chloro-3,5-dimethoxyphenyl)pyridin-4-yl]methyl]-N-phenylamino]piperidine Trihydrochloride | Cl.Cl.Cl.ClC1=C(C=C(C=C1OC)C1=NC=CC(=C1)CN1CCC(CC1)N(C1=CC=CC=C1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)Cl)OC)OC | InChI=1S/C39H40Cl2N4O4.3ClH/c1-46-34-20-28(21-35(47-2)38(34)40)32-18-26(10-14-42-32)24-44-16-12-31(13-17-44)45(30-8-6-5-7-9-30)25-27-11-15-43-33(19-27)29-22-36(48-3)39(41)37(23-29)49-4;;;/h5-11,14-15,18-23,31H,12-13,16-17,24-25H2,1-4H3;3*1H
